US06096906
A mixture of (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid ethyl ester (897 g, 1.93 mol) and 10% aqueous sodium hydroxide (980 mL, 2.72 mol) in isopropyl alcohol (9 L) was heated at reflux for 6 hours, cooled to ambient temperature, and stirred for 12 hours. The reaction mixture was diluted with water (13.5 L), hexanes (9 L), and isopropyl ether (4.5 L). The aqueous layer was separated and extracted with hexanes (9 L) and isopropyl ether (4.5 L), adjusted to pH 2 with 2N aqueous hydrochloric acid, and extracted with ethyl acetate (8 L and 4 L). The combined ethyl acetate extracts were washed with water (6 L), dried over magnesium sulfate, and concentrated in vacuo to a dark amber oil which was diluted with toluene (2 L) and concentrated again to an oil. The oil was dissolved in toluene (4.2 L) at 60° C., and hexanes (8.8 L) were added at a rate to maintain a temperature of greater than 50° C. The tan solids which precipitated upon slowly cooling to ambient temperature over several hours were filtered and washed with 2:1 hexane/toluene (2 L). These solids were dissolved in toluene (5 L) at 60° C., treated with Darco® G-60, filtered, washed with toluene, and concentrated in vacuo to approximately 4.0 L. This mixture was heated to 50-60° C., treated drop-wise with hexanes (8.6 L), cooled, and granulated at 5° C. for 1 to 2 hours. The resulting solids were filtered, washed with 2:1 hexanes/toluene (2 L), and the wet cake was stirred with hexanes (4 L) at reflux for 30 minutes. This mixture was cooled to ambient temperature, granulated for 1 hour, filtered, and the resulting solids were dried under vacuum overnight to provide 450 g (55%) of (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid as an off white solid: 1H NMR (400 MHz, CDCl3) δ 7.99 (d, J=8.1 Hz, 1H), 7.66 (dd, J=1.1, 8.1 Hz, 1H), 7.63 (s, 1H), 7.15-7.32 (m, 6H), 6.89 (dd, J=1.7, 7.9 Hz, 1H), 6.85 (d, J=1.7 Hz, 1H), 6.1 (bs, 2H), 4.50 (d, J=4.3 Hz, 1H), 4.18 (dd, J=2.7, 11.2 Hz, 1H), 3.94 (dd, J=4.6, 11.0 Hz, 1H), 2.74 (dd, J=6.1, 13.8 Hz, 1H), 2.51 (dd, J=9.4, 13.9 Hz, 1H),2.22(m, 1H); IR 3454, 3218 (br), 1699, 1431, 1337, 1299, 1275, 1258, 1191, 1178, 1135, 1123, 700 cm-1 ; mp 142° C.

reactant | (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid ethyl ester | 1.93 mol, 897 g | C(C)OC(C1=C(C=C(C=C1)C(F)(F)F)C1=CC=C2[C@@H]([C@H](COC2=C1)CC1=CC=CC=C1)O)=O | C26H23F3O4
reactant | sodium hydroxide | 2.72 mol, 980 mL | [OH-].[Na+]
solvent | isopropyl alcohol | 9 L | C(C)(C)O | C3H8O
solvent | water | 13.5 L | O | H2O
solvent | isopropyl ether | 4.5 L | C(C)(C)OC(C)C | C6H14O
product | (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid | 450 g, 55% | C(C1=CC=CC=C1)[C@H]1COC2=CC(=CC=C2[C@@H]1O)C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C24H19F3O4
